US05378712
By reacting 1.67 g of t-butyl 4-piperidinyloxyacetate with 0.8 g of the acid chloride of 1-(p-cyanobenzoyl)-2-methyl-L-proline (obtained by treating the product of the previous step with thionyl chloride) there is obtained 0.89 g of t-butyl [[1-[1-(p-cyanobenzoyl)-2-methyl-L-prolyl]-4-piperidinyl]oxy]acetate. M.p. 180°-182° C. (ethyl acetate).

reactant | t-butyl 4-piperidinyloxyacetate | 1.67 g | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
reactant | 1-(p-cyanobenzoyl)-2-methyl-L-proline | C(#N)C1=CC=C(C(=O)N2[C@](C(=O)O)(CCC2)C)C=C1 | C14H14N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | t-butyl [[1-[1-(p-cyanobenzoyl)-2-methyl-L-prolyl]-4-piperidinyl]oxy]acetate | 0.89 g | C(#N)C1=CC=C(C(=O)N2[C@](C(=O)N3CCC(CC3)OCC(=O)OC(C)(C)C)(CCC2)C)C=C1 | C25H33N3O5
